US04788207
In a manner similar to Step C of Example 1, the reaction of 3.8 grams of (0.023 mole) of 2-(thien-2-yl)thiazole with 10.0 ml of a 2.5M solution of n-butyllithium in hexanes and 6.5 grams (0.023 mole) of 1,2-diiodoethane in 60 ml of diethyl ether yielded 4.1 grams of 5-iodo-2-(thien-2-yl)thiazole as a solid, m.p. 117°-119° C.

reactant | 2-(thien-2-yl)thiazole | 0.023 mole, 3.8 grams | S1C(=CC=C1)C=1SC=CN1 | C7H5NS2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,2-diiodoethane | 0.023 mole, 6.5 grams | ICCI | C2H4I2
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 5-iodo-2-(thien-2-yl)thiazole | 4.1 grams | IC1=CN=C(S1)C=1SC=CC1 | C7H4INS2
